US08895745B2
4-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (10.0 g, 45.4 mmol, 1.0 equiv) in NMP (100 ml) was added Cs2CO3 (44.4 g), 136.3 mmol, 3.0 equiv) and 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (19.0 g, 68.2 mmol, 1.5 equiv). The reaction mixture was heated to 80° C. and monitored until complete. The reaction mixture was cooled to room temperature, diluted with water and extracted with EtOAc. The organic layer was washed successively with 2N KOH, water, brine, dried (MgSO4), filtered and concentrated under reduced pressure. The target molecule was purified by column chromatography (SiO2), eluted with 5→30% EtOAc-petrol to afford a colourless liquid (9.5 g) that crystallised on standing. 1H NMR (400 MHz, CDCl3): 7.42 (1H, d), 7.37 (1H, d), 7.31 (1H, t), 7.03 (1H, dd), 4.61-4.49 (1H, m), 3.76-3.62 (2H, m), 3.47-3.32 (2H, m), 1.99-1.86 (2H, m), 1.86-1.70 (2H, m), 1.49 (9H, s).

reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 45.4 mmol, 10.0 g, 1.0 equiv | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | Cs2CO3 | 44.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 68.2 mmol, 19.0 g, 1.5 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 9.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C22H34BNO5
